US06670367B1
2-(4-Methoxy-6-methyl-2-pyrimidinyloxy)-3-(2-(3,4-dimethoxyphenyl)ethoxy)-3,3-di(4-ethylphenyl)propionic Acid (I-116)
1.8 g (3.8 mmol) of 2-hydroxy-3-(2-(3,4-dimethoxyphenyl)ethoxy)-3,3-di(4-ethylphenyl)propionic acid were introduced into 20 ml of DMF, and 554 mg of NaH (50% suspension) were added. After the mixture had stirred for 15 minutes, 855 mg (4.2 mmol) of 4-methoxy-6-methyl-2-methylsulfonylpyrimidine were added, and the mixture was stirred at room temperature for 3 hours. Water was added to the mixture, which was then extracted with ether. The aqueous phase was acidified with 1 N aqueous HCl, extracted with ether and dried over magnesium sulfate. The solvent was distilled off and 540 mg (23%) of colorless powder were isolated after recrystallization from ether/n-hexane.

reactant | 2-hydroxy-3-(2-(3,4-dimethoxyphenyl)ethoxy)-3,3-di(4-ethylphenyl)propionic acid | 3.8 mmol, 1.8 g | OC(C(=O)O)C(C1=CC=C(C=C1)CC)(C1=CC=C(C=C1)CC)OCCC1=CC(=C(C=C1)OC)OC | C29H34O6
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | NaH | 554 mg | [H-].[Na+]
reactant | 4-methoxy-6-methyl-2-methylsulfonylpyrimidine | 4.2 mmol, 855 mg | COC1=NC(=NC(=C1)C)S(=O)(=O)C | C7H10N2O3S
solvent | Water | O | H2O
product | 2-(4-Methoxy-6-methyl-2-pyrimidinyloxy)-3-(2-(3,4-dimethoxyphenyl)ethoxy)-3,3-di(4-ethylphenyl)propionic Acid | 540 mg, 23% | COC1=NC(=NC(=C1)C)OC(C(=O)O)C(C1=CC=C(C=C1)CC)(C1=CC=C(C=C1)CC)OCCC1=CC(=C(C=C1)OC)OC | C35H40N2O7
